US05294734
3.57 g (8.5 mmol) of 6-acetoxy-4-diisopropylphosphonomethyl-2-formylamino-hex-3-enoic acid ethyl ester are dissolved in 22 ml of dichloromethane, and 4.4 ml (34 mmol) of trimethylbromosilane are added dropwise at room temperature. The mixture is left to stand at room temperature for 22 hours, 22 ml of ethanol are added dropwise, the mixture is left to stand for a further 22 hours and is concentrated by evaporation in a rotary evaporator, the residue is dissolved in 22 ml of ethanol, and a mixture of 22 ml of propylene oxide and 22 ml of ethanol is added dropwise. A suspension forms, which is stirred for a further 90 minutes and then filtered with suction. 2-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester having a melting point of 195° (decomp.) is obtained.

reactant | 6-acetoxy-4-diisopropylphosphonomethyl-2-formylamino-hex-3-enoic acid ethyl ester | 8.5 mmol, 3.57 g | C(C)OC(C(C=C(CCOC(C)=O)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C18H32NO8P
reactant | trimethylbromosilane | 34 mmol, 4.4 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | ethanol | 22 ml | C(C)O | C2H6O
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
product | 2-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCO)CP(=O)(O)O)N)=O | C9H18NO6P
